US07582631B2
To a solution of (S)-{4-[4-(2,5-diazabicyclo[2.2.1]hept-2-yl)quinazolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine (105 mg, 0.25 mmol) in 2 mL of CHCl3 at RT was added formaldehyde (37%, 407 μL, 5.00 mmol), NaCNBH3 (47 mg, 0.75 mmol) and MeOH (0.4 mL). The reaction stirred at RT overnight and then NaHCO3 (sat.) was added and the product was extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered and concentrated. The crude product was purified by silica gel chromatography (gradient elution 1 to 5% MeOH in CH2Cl2) to give (S)-{4-[4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-quinazolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine as a pale yellow solid. MS (ES+): 437 (M+H)+.

reactant | (S)-{4-[4-(2,5-diazabicyclo[2.2.1]hept-2-yl)quinazolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.25 mmol, 105 mg | C12N(CC(NC1)C2)C2=NC(=NC1=CC=CC=C21)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C26H26N6
reactant | formaldehyde | 5.00 mmol, 407 μL | C=O | CH2O
reactant | NaCNBH3 | 0.75 mmol, 47 mg | [BH3-]C#N.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 2 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 0.4 mL | CO | CH4O
product | (S)-{4-[4-(5-methyl-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-quinazolin-2-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | CN1C2CN(C(C1)C2)C2=NC(=NC1=CC=CC=C21)C2=CC(=NC=C2)N[C@@H](C)C2=CC=CC=C2 | C27H28N6
